US07728030B2
(αS,βR)-β-{[1-(3-Pyridyl)-1H-indazole-5-yl]oxy}-α-methylbenzeneethanamine
(1R,2S)-Norephedrine (500 mg, 3.31 mmol), 5-iodo-1-(3-pyridyl)-1H-indazole (1.08 g, 33.37 mmol), cesiumcarbonate (2.15 g, 6.61 mmol), copper (I)-iodide (314.9 mg, 1.65 mmol) and butyronitrile (2 mL) are stirred in a glass pressure tube at 120° C. for 20 h. The reaction mixture is filtered via a glass microfibre filter, the solvent evaporated and the residue purified by chromatography (silicagel, eluents: dichloromethane/methanol). 307.8 mg (27%) of the title compound are obtained.

reactant | (1R,2S)-Norephedrine | 3.31 mmol, 500 mg | C[C@@H]([C@@H](C1=CC=CC=C1)O)N | C9H13NO
reactant | 5-iodo-1-(3-pyridyl)-1H-indazole | 33.37 mmol, 1.08 g | IC=1C=C2C=NN(C2=CC1)C=1C=NC=CC1 | C12H8IN3
reactant | cesiumcarbonate | 6.61 mmol, 2.15 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | butyronitrile | 2 mL | C(CCC)#N | C4H7N
catalyst | copper (I)-iodide | 1.65 mmol, 314.9 mg | [Cu]I
product | (αS,βR)-β-{[1-(3-Pyridyl)-1H-indazole-5-yl]oxy}-α-methylbenzeneethanamine | 307.8 mg, 27% | N1=CC(=CC=C1)N1N=CC2=CC(=CC=C12)O[C@@H]([C@@H](N)C)C1=CC=CC=C1 | C21H20N4O
